US06265509B1
N-[2,2-Dimethoxyethyl]succinic Monoamide.
50.4 g (0.5 mol) of freshly distilled succinic anhydride are dispersed in 100 ml of methylene chloride. 52.75 g (0.5 mol) of aminoacetaldehyde dimethyl acetal are added, and the mixture is boiled under reflux. After 30 minutes, the homogeneous solution is evaporated in vacuo and freed from solvent at 60° C. under a high vacuum, giving a viscous oil which, according to titration with sodium hydroxide solution, has a purity of 99A %. NMR data: 2.63 ppm (m) 4 methylene protons of succinic acid, 3.42 ppm (s) 6 methoxy protons, 4.42 ppm (t) 1 acetal proton, 3.6 ppm (d) 2 methylene protons, 6.60 ppm (t) 1 amide proton, 9.79 ppm 1 acid proton

reactant | succinic anhydride | C1(CCC(=O)O1)=O | C4H4O3
reactant | aminoacetaldehyde dimethyl acetal | 0.5 mol, 52.75 g | COC(CN)OC | C4H11NO2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | succinic acid | C(CCC(=O)O)(=O)O | C4H6O4
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | N-[2,2-Dimethoxyethyl]succinic Monoamide | COC(CNC(CCC(=O)O)=O)OC | C8H15NO5
